US07132419B2
4-Methoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-1-hydroxymethyl-ethyl)-amide
A mixture of 3-dimethylamino-2-[(4-methoxy-benzo[a]phenazine-11-carbonyl)-amino]-propionic acid methyl ester (335 mg) and lithium borohydride (72 mg) in tetrahydrofuran (10 mL) and isopropanol (10 mL) was stirred at room temperature for 18 hours. Another 5 equivalents of lithium borohydride were added and the mixture stirred for another 18 hours. The reaction was quenched with ammonium chloride solution and extracted with ethyl acetate, dried (MgSO4) and the solvent removed in vacuo to yield a brown gum. Purification using flash chromatography and trituration with ether yielded the desired title compound as an orange powder.

reactant | 3-dimethylamino-2-[(4-methoxy-benzo[a]phenazine-11-carbonyl)-amino]-propionic acid methyl ester | 335 mg | COC(C(CN(C)C)NC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC)=O | C24H24N4O4
reactant | lithium borohydride | 72 mg | [BH4-].[Li+]
reactant | lithium borohydride | 5 equivalents | [BH4-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 4-Methoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-1-hydroxymethyl-ethyl)-amide | CN(CC(CO)NC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC)C | C23H24N4O3
